US07465731B2
To a solution of ethyl 6-{[(3R)-1-benzyl-3-piperidinyl]amino}-5-chloronicotinate (6.75 g, 18.1 mmol) in ethanol (200 mL) were added ammonium formate (6.83 g, 108 mmol) and 10% Pd/C (20% w/w, 1.2 g) at ambient temperature and the mixture was heated to reflux with stirring for 8 hrs. After cooling, the catalyst in the reaction mixture was removed by filtration. The solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (NH, CHCl3 only-CHCl3:MeOH/50:1˜25:1) to give ethyl 6-[(3R)-3-piperidinylamino]nicotinate (4.5 g, 100%) as an oil.

reactant | ethyl 6-{[(3R)-1-benzyl-3-piperidinyl]amino}-5-chloronicotinate | 18.1 mmol, 6.75 g | C(C1=CC=CC=C1)N1C[C@@H](CCC1)NC1=NC=C(C(=O)OCC)C=C1Cl | C20H24ClN3O2
reactant | ammonium formate | 108 mmol, 6.83 g | C(=O)[O-].[NH4+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | ethyl 6-[(3R)-3-piperidinylamino]nicotinate | 4.5 g, 100% | N1C[C@@H](CCC1)NC1=NC=C(C(=O)OCC)C=C1 | C13H19N3O2
